US07271264B2
1,3-Difluoro-11-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-11,13-dihydro-12-oxa-benzo[3,4]cyclohepta[1,2-a]naphthalen-8-ol hydrochloride salt
Dissolve 1,3-difluoro-11-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-2-trimethylsilanyl-11,13-dihydro-12-oxa-benzo[3,4]cyclohepta[1,2-a]naphthalen-8-ol (2.2 g, 3.8 mmol) in acetonitrile (100 mL) and add tetrabutylammonium fluoride hydrate (2.0 g, 7.6 mmol) and heat to 70° C. for 4 hours. Cool the reaction to room temperature and partition between water and ethyl acetate. Extract the organic layer with water three times. Dry with sodium sulfate, filter and concentrate in vacuo. Dissolve the residue in methylene chloride (8 mL) and add HCl (2M in ether, 3.8 mL, 7.6 mmol). Add the solution slowly to vigorously stirred ether and collect the precipitate. Dry at 50° C. under vacuum over night to yield 1.9 g (93%) of the title compound as a tan solid. 1H NMR (d6-DMSO) δ10.09 (s, 1H), 10.02 (bs, 1H), 8.36 (d, J=9.2 Hz, 1H), 7.92 (d, J=8.6 Hz, 1H), 7.57 (d, J=8.6 Hz, 1H), 7.31 (d, J=2.5 Hz, 1H), 7.22 (dd, J=9.4, 2.7 Hz, 1H), 7.13 (td, J=9.6, 2.3 Hz, 1H), 6.99 (m, 2H), 6.64 (m, 4H), 4.97 (d, J=12.3 Hz, 1H), 4.19 (t, J=5.2 Hz, 2H), 4.07 (d, J=12.3 Hz, 1H), 3.37 (m, 4H), 2.91 (m, 2H), 1.70 (m, 5H), 1.57 (m, 1H). mass spectrum (apci) m/z-502.3 (M−HCl+H). HPLC (5 to 95) Rt (purity at 254 nm)=2.76 min (>99%). Analysis calculated for C31H30ClF2NO3.H2O: C, 66.96; H, 5.80; N, 2.52. Found: C, 67.00; H, 6.20; N, 2.83.

reactant | 1,3-difluoro-11-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-2-trimethylsilanyl-11,13-dihydro-12-oxa-benzo[3,4]cyclohepta[1,2-a]naphthalen-8-ol | 3.8 mmol, 2.2 g | FC1=C(C(=CC2=C1COC(C=1C2=CC=C2C=C(C=CC12)O)C1=CC=C(C=C1)OCCN1CCCCC1)F)[Si](C)(C)C | C34H37F2NO3Si
reactant | tetrabutylammonium fluoride hydrate | 7.6 mmol, 2.0 g | O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | HCl | 7.6 mmol, 2M, 3.8 mL | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 1,3-Difluoro-11-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-11,13-dihydro-12-oxa-benzo[3,4]cyclohepta[1,2-a]naphthalen-8-ol hydrochloride salt | 1.9 g, 93% | Cl.FC1=CC(=CC2=C1COC(C=1C2=CC=C2C=C(C=CC12)O)C1=CC=C(C=C1)OCCN1CCCCC1)F | InChI=1S/C31H29F2NO3.ClH/c32-22-17-27-26-10-6-21-16-23(35)7-11-25(21)30(26)31(37-19-28(27)29(33)18-22)20-4-8-24(9-5-20)36-15-14-34-12-2-1-3-13-34;/h4-11,16-18,31,35H,1-3,12-15,19H2;1H
